*$
* OPA827
*****************************************************************************
* (C) Copyright 2018 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPA827
* Date: 15OCT2018
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A
* EVM Users Guide:  N/A
* Datasheet: SBOS376I -NOVEMBER 2006-REVISED JULY 2016
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* New model created with Green-Williams-Lis Op Amp Macro-model Architecture.
*
* Final 1.0
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled:
* 		OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* 		UNITY GAIN BANDWIDTH (GBW)
* 		INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* 		POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* 		DIFFERENTIAL INPUT IMPEDANCE (Zid)
* 		COMMON-MODE INPUT IMPEDANCE (Zic)
* 		OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* 		OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* 		INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* 		INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* 		OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* 		SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* 		QUIESCENT CURRENT (Iq)
* 		SETTLING TIME VS. CAPACITIVE LOAD (ts)
* 		SLEW RATE (SR)
* 		SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* 		LARGE SIGNAL RESPONSE
* 		OVERLOAD RECOVERY TIME (tor)
* 		INPUT BIAS CURRENT (Ib)
* 		INPUT OFFSET CURRENT (Ios)
* 		INPUT OFFSET VOLTAGE (Vos)
* 		INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
* 		INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* 		INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* 		INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
******************************************************
.subckt OPA827 IN+ IN- VCC VEE OUT
******************************************************
.model R_NOISELESS RES (TCE=0 T_ABS=-273.15)
******************************************************
I_OS        ESDn MID 1e-15
I_B         30 MID 3e-12
V_GRp       45 MID 81
V_GRn       46 MID -80
V_ISCp      39 MID 67.100
V_ISCn      40 MID -64.100
V_ORn       38 VCLP -4.5
V11         44 37 0
V_ORp       36 VCLP 4.5
V12         43 35 0
V4          27 OUT 0
VCM_MIN     67 VEE_B 3
VCM_MAX     68 VCC_B -3
I_Q         VCC VEE 0.0048
X_VOS        75 30 VOS_DRIFT
XU5         ESDp ESDn VCC VEE ESD_0
XU4         19 ESDp MID PSRR_CMRR_0
XU3         20 VEE_B MID PSRR_CMRR_1
XU2         21 VCC_B MID PSRR_CMRR_2
XU1         23 22 CLAMP VSENSE CLAW_CLAMP CL_CLAMP 24 26 27 MID AOL_ZO_0
C28         31 MID 1P
R77         32 31 R_NOISELESS 100
C27         33 MID 1P
R76         34 33 R_NOISELESS 100
R75         MID 35 R_NOISELESS 1
GVCCS8      35 MID 36 MID  -1
R74         37 MID R_NOISELESS 1
GVCCS7      37 MID 38 MID  -1
Xi_nn       ESDn MID FEMT_0
Xi_np       MID 30 FEMT_0
Xe_n        ESDp 30 VNSE_0
XIQPos      VIMON MID MID VCC VCCS_LIMIT_IQ_0
XIQNeg      MID VIMON VEE MID VCCS_LIMIT_IQ_0
C_DIFF      ESDp ESDn 9e-12
XCL_AMP     39 40 VIMON MID 41 42 CLAMP_AMP_LO_0
SOR_SWp     CLAMP 43 CLAMP 43  S_VSWITCH_1
SOR_SWn     44 CLAMP 44 CLAMP  S_VSWITCH_1
XGR_AMP     45 46 47 MID 48 49 CLAMP_AMP_HI_0
R39         45 MID R_NOISELESS 1T
R37         46 MID R_NOISELESS 1T
R42         VSENSE 47 R_NOISELESS 1M
C19         47 MID 1F
R38         48 MID R_NOISELESS 1
R36         MID 49 R_NOISELESS 1
R40         48 50 R_NOISELESS 1M
R41         49 51 R_NOISELESS 1M
C17         50 MID 1F
C18         MID 51 1F
XGR_SRC     50 51 CLAMP MID VCCS_LIM_GR_0
R21         41 MID R_NOISELESS 1
R20         MID 42 R_NOISELESS 1
R29         41 52 R_NOISELESS 1M
R30         42 53 R_NOISELESS 1M
C9          52 MID 1F
C8          MID 53 1F
XCL_SRC     52 53 CL_CLAMP MID VCCS_LIM_4_0
R22         39 MID R_NOISELESS 1T
R19         MID 40 R_NOISELESS 1T
XCLAWp      VIMON MID 54 VCC_B VCCS_LIM_CLAW+_0
XCLAWn      MID VIMON VEE_B 55 VCCS_LIM_CLAW-_0
R12         54 VCC_B R_NOISELESS 1K
R16         54 56 R_NOISELESS 1M
R13         VEE_B 55 R_NOISELESS 1K
R17         57 55 R_NOISELESS 1M
C6          57 MID 1F
C5          MID 56 1F
G2          VCC_CLP MID 56 MID  -1M
R15         VCC_CLP MID R_NOISELESS 1K
G3          VEE_CLP MID 57 MID  -1M
R14         MID VEE_CLP R_NOISELESS 1K
XCLAW_AMP   VCC_CLP VEE_CLP VOUT_S MID 58 59 CLAMP_AMP_LO_0
R26         VCC_CLP MID R_NOISELESS 1T
R23         VEE_CLP MID R_NOISELESS 1T
R25         58 MID R_NOISELESS 1
R24         MID 59 R_NOISELESS 1
R27         58 60 R_NOISELESS 1M
R28         59 61 R_NOISELESS 1M
C11         60 MID 1F
C10         MID 61 1F
XCLAW_SRC   60 61 CLAW_CLAMP MID VCCS_LIM_3_0
H2          34 MID V11 -1
H3          32 MID V12 1
C12         SW_OL MID 100P
R32         62 SW_OL R_NOISELESS 100
R31         62 MID R_NOISELESS 1
XOL_SENSE   MID 62 33 31 OL_SENSE_0
S1          24 26 SW_OL MID  S_VSWITCH_3
H1          63 MID V4 1K
S7          VEE OUT VEE OUT  S_VSWITCH_4
S6          OUT VCC OUT VCC  S_VSWITCH_4
R11         MID 64 R_NOISELESS 1T
R18         64 VOUT_S R_NOISELESS 100
C7          VOUT_S MID 1N
E5          64 MID OUT MID  1
C13         VIMON MID 1N
R33         63 VIMON R_NOISELESS 100
R10         MID 63 R_NOISELESS 1T
R47         65 VCLP R_NOISELESS 100
C24         VCLP MID 100P
E4          65 MID CL_CLAMP MID  1
C4          23 MID 1F
R9          23 66 R_NOISELESS 1M
R7          MID 67 R_NOISELESS 1T
R6          68 MID R_NOISELESS 1T
R8          MID 66 R_NOISELESS 1
XVCM_CLAMP  69 MID 66 MID 68 67 VCCS_EXT_LIM_0
E1          MID 0 70 0  1
R89         VEE_B 0 R_NOISELESS 1
R5          71 VEE_B R_NOISELESS 1M
C3          71 0 1F
R60         70 71 R_NOISELESS 1MEG
C1          70 0 1
R3          70 0 R_NOISELESS 1T
R59         72 70 R_NOISELESS 1MEG
C2          72 0 1F
R4          VCC_B 72 R_NOISELESS 1M
R88         VCC_B 0 R_NOISELESS 1
G17         VEE_B 0 VEE 0  -1
G16         VCC_B 0 VCC 0  -1
R_PSR       73 69 R_NOISELESS 1K
G_PSR       69 73 21 20  -1M
R2          22 ESDn R_NOISELESS 1M
R1          73 74 R_NOISELESS 1M
R_CMR       75 74 R_NOISELESS 1K
G_CMR       74 75 19 MID  -1M
C_CMn       ESDn MID 9e-12
C_CMp       MID ESDp 9e-12
R53         ESDn MID R_NOISELESS 1T
R52         MID ESDp R_NOISELESS 1T
R35         IN- ESDn R_NOISELESS 10M
R34         IN+ ESDp R_NOISELESS 10M
.MODEL S_VSWITCH_1 VSWITCH (RON=10e-3 ROFF=1e9 VON=10e-3 VOFF=0)
.MODEL S_VSWITCH_3 VSWITCH (RON=1e-3 ROFF=1e9 VON=900e-3 VOFF=800e-3)
.MODEL S_VSWITCH_4 VSWITCH (RON=50 ROFF=1e12 VON=500e-3 VOFF=450e-3)
.ENDS OPA827
*
.subckt VOS_DRIFT VOS+ VOS-
.param DC = 6.6241e-05
.param POL = 1
.param DRIFT = 1e-7
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ends
*
.SUBCKT ESD_0 ESDp ESDn VCC VEE
SW6         ESDn ESDp ESDn ESDp  S_VSWITCH_1
SW5         ESDp ESDn ESDp ESDn  S_VSWITCH_1
SW4         ESDn VCC ESDn VCC  S_VSWITCH_3
SW3         VEE ESDn VEE ESDn  S_VSWITCH_3
SW2         ESDp VCC ESDp VCC  S_VSWITCH_3
SW1         VEE ESDp VEE ESDp  S_VSWITCH_3
.MODEL S_VSWITCH_1 VSWITCH (RON=50 ROFF=1e12 VON=700e-3 VOFF=650e-3)
.MODEL S_VSWITCH_3 VSWITCH (RON=50 ROFF=1e12 VON=500e-3 VOFF=450e-3)
.ENDS
*
.SUBCKT PSRR_CMRR_0 psrr_in psrr_vccb mid
.model R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
R74         mid psrr_in R_NOISELESS 1
G_2         psrr_in mid 4 mid  -10
R2b         mid 4 R_NOISELESS 11111111.1111
C2a         4 5 2.2736e-16
R73         5 4 R_NOISELESS 100MEG
R49         mid 5 R_NOISELESS 1
GVCCS7      5 mid 6 mid  -1
R2a         mid 6 R_NOISELESS 55891.5333
C1a         6 7 4.7486e-13
R48         7 6 R_NOISELESS 100MEG
G_1         7 mid psrr_vccb mid  -0.00078505
Rsrc        mid 7 R_NOISELESS 1
.ENDS
*
.SUBCKT PSRR_CMRR_1 psrr_in psrr_vccb psrr_mid
.model R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
R80         psrr_mid psrr_in R_NOISELESS 81.1112
C27         psrr_in 4 2.1802e-10
R79         4 psrr_in R_NOISELESS 100MEG
GVCCS8      4 psrr_mid psrr_vccb psrr_mid  -0.35557
R78         psrr_mid 4 R_NOISELESS 1
.ENDS
*
.SUBCKT PSRR_CMRR_2 psrr_in psrr_vccb mid
.model R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
R74         mid psrr_in R_NOISELESS 1
G_2         psrr_in mid 4 mid  -400
R2b         mid 4 R_NOISELESS 250626.5664
C2a         4 5 3.9789e-14
R73         5 4 R_NOISELESS 100MEG
R49         mid 5 R_NOISELESS 1
GVCCS7      5 mid 6 mid  -1
R2a         mid 6 R_NOISELESS 45020.2591
C1a         6 7 3.5368e-13
R48         7 6 R_NOISELESS 100MEG
G_1         7 mid psrr_vccb mid  -0.00044034
Rsrc        mid 7 R_NOISELESS 1
.ENDS
*
.SUBCKT VCCS_LIM_2_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 0.02015
.PARAM IPOS = 0.412
.PARAM INEG = -0.412
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT VCCS_LIM_1_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-4
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT AOL_ZO_0 AOL_INP AOL_INN CLAMP VSENSE CLAW_CLAMP CL_CLAMP ZO_CLEFT ZO_CRIGHT ZO_OUT MID
.MODEL R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
C1_A0          CLAMP MID 1.4129e-08
R4_A0          MID CLAMP R_NOISELESS 1MEG
XVCCS_LIM_2_A0 4_A0 MID MID CLAMP VCCS_LIM_2_0
R3_A0          MID 4_A0 R_NOISELESS 1MEG
XVCCS_LIM_1_A0 AOL_INP AOL_INN MID 4_A0 VCCS_LIM_1_0
R4_VS         VSENSE MID R_NOISELESS 1K
GVCCS4_VS     VSENSE MID CLAMP MID  -1M
C2_A2          out2 MID 9.2643e-16
R3_A2          out2 MID R_NOISELESS 1MEG
GVCCS3_A2      out2 MID VSENSE MID  -1U
C2_A3          out3 MID 7.9577e-16
R3_A3          out3 MID R_NOISELESS 1MEG
GVCCS3_A3      out3 MID out2 MID  -1U
R4_CC         CLAW_CLAMP MID R_NOISELESS 1K
GVCCS4_CC     CLAW_CLAMP MID out3 MID  -1M
R4_CL         CL_CLAMP MID R_NOISELESS 1K
GVCCS4_CL     CL_CLAMP MID CLAW_CLAMP MID  -1M
G_Aol_Zo    Zo_Cleft MID CL_CLAMP ZO_OUT  -140.2264
GVCCS1_1      outz1 MID Zo_Cright MID  -5
C1_1          Zo_Cleft Zo_Cright 1.9894e-06
R2_1          Zo_Cright MID R_NOISELESS 2500
R1_1          Zo_Cright Zo_Cleft R_NOISELESS 10K
Rdc_1         Zo_Cleft MID R_NOISELESS 1
GVCCS1_2      outz2 MID net2 MID  -2.4357
C1_2          outz1 net2 1.2178e-12
R2_2          net2 MID R_NOISELESS 6965.035
R1_2          net2 outz1 R_NOISELESS 10K
Rdc_2         outz1 MID R_NOISELESS 1
GVCCS2_3      outz3 MID net3 MID  -1
C2_3          5_3 MID 8.1728e-14
R5_3          net3 5_3 R_NOISELESS 10K
R4_3          net3 outz2 R_NOISELESS 75900
R7_3          outz2 MID R_NOISELESS 1
GVCCS2_4      outz4 MID net4 MID  -1
C2_4          5_4 MID 6.1953e-14
R5_4          net4 5_4 R_NOISELESS 10K
R4_4          net4 outz3 R_NOISELESS 10035.2354
R7_4          outz3 MID R_NOISELESS 1
GVCCS2_5      outz5 MID net5 MID  -1
C2_5          5_5 MID 4.6119e-14
R5_5          net5 5_5 R_NOISELESS 10K
R4_5          net5 outz4 R_NOISELESS 9681.8182
R7_5          outz4 MID R_NOISELESS 1
R1_6          2_6  MID R_NOISELESS 1
R11_6         5_6  MID R_NOISELESS 42.2567
C4_6          5_6  outz5 3.2844e-14
R10_6         5_6  outz5 R_NOISELESS 10K
XVCVS_LIM_1 5_6  MID MID 2_6   VCCS_LIM_ZO_0
R9_6          outz5 MID R_NOISELESS 1
Rdummy      MID ZO_OUT R_NOISELESS 1512.58
Rx          ZO_OUT 2_6 R_NOISELESS 15125.8
.ENDS
*
.SUBCKT VCCS_LIM_ZO_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 237.6486
.PARAM IPOS = 2029882.361
.PARAM INEG = -1939127.56
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT FEMT_0  1 2
.PARAM FLWF=0.001
.PARAM NLFF=2.2
.PARAM NVRF=2.2
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS
*
.SUBCKT VNSE_0  1 2
.PARAM FLW=0.1
.PARAM NLF=58
.PARAM NVR=3.8
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS
*
.SUBCKT VCCS_LIMIT_IQ_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS
*
.SUBCKT CLAMP_AMP_LO_0  VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
*
.SUBCKT CLAMP_AMP_HI_0  VC+ VC- VIN COM VO+ VO-
.PARAM G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
*
.SUBCKT VCCS_LIM_GR_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.79121e1
.PARAM INEG = -0.79121e1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT VCCS_LIM_4_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.3402e1
.PARAM INEG = -0.336e1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT VCCS_LIM_CLAW+_0  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {ABS(V(VC+,VC-))} =
+(0, 0.002588)
+(22.3428, 0.002588)
+(44.6855, 0.0025882)
+(59.5807, 0.0030505)
+(60.3255, 0.003401)
+(61.815, 0.0052531)
+(63.3045, 0.0086181)
+(64.794, 0.012035)
+(66.2835, 0.014596)
+(67.0283, 0.015294)
.ENDS
*
.SUBCKT VCCS_LIM_CLAW-_0  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {ABS(V(VC+,VC-))} =
+(0, 0.00318)
+(21.3526, 0.0031802)
+(42.7053, 0.003184)
+(56.9404, 0.0033335)
+(57.6521, 0.0033764)
+(59.0756, 0.0034216)
+(60.4991, 0.0043687)
+(61.9226, 0.0095788)
+(63.3461, 0.014902)
+(64.0579, 0.015435)
.ENDS
*
.SUBCKT VCCS_LIM_3_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.1701e1
.PARAM INEG = -0.168e1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT OL_SENSE_0  COM SW+ OLN  OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS
*
.SUBCKT VCCS_EXT_LIM_0  VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS
*
